US06380218B1
2-(3,5-Difluoro-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-benzyl]-nicotinamide
A solution of 2-(3,5-difluoro-phenoxy)-nicotinic acid (0.300 grams, 1.19 mmole), 2-(4-Aminomethyl-phenyl)-propan-2-ol (0.197 grams, 1.19 mmole) and 1-hydroxybenzotriazole hydrate (0.177 grams, 1.31 mmole) in dry dimethylformamide was added 1-(3-dimethylamino)-propyl)-3-ethylcarbodiimide hydrochloride (0.273 grams, 1.43 mmole) and stirred over night. The mixture was poured into 100 ml water and extracted with ethyl acetate. The combined extracts were washed with 1 N NaOH, water and brine, dried over MgSO4, filtered and concentrated to give an oil that was purified by chromatography on silica eluting with 40% ethyl acetate/hexane to give an oil. Recrystalization from ethyl acetate/hexane gave a white solid (0.328 g). M.P. 68-70° C.; Anal. calcd. for C22H20N2O3F2: C, 66.32; H, 5.06; N, 7,03; N, 703. Found: C, 67.30; H, 5.39; N, 6.56.

reactant | 2-(3,5-difluoro-phenoxy)-nicotinic acid | 1.19 mmole, 0.300 grams | FC=1C=C(OC2=C(C(=O)O)C=CC=N2)C=C(C1)F | C12H7F2NO3
reactant | 2-(4-Aminomethyl-phenyl)-propan-2-ol | 1.19 mmole, 0.197 grams | NCC1=CC=C(C=C1)C(C)(C)O | C10H15NO
reactant | 1-hydroxybenzotriazole hydrate | 1.31 mmole, 0.177 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide hydrochloride | 1.43 mmole, 0.273 grams | Cl.C(C)N=C=N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-(3,5-Difluoro-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-benzyl]-nicotinamide | 0.328 g | FC=1C=C(OC2=C(C(=O)NCC3=CC=C(C=C3)C(C)(C)O)C=CC=N2)C=C(C1)F | C22H20F2N2O3
